US08110575B2
(S)-5-(6-(5-fluoroindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
0.10 g (0.40 mmol) (S)-5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one, 0.11 g (0.40 mmol) (6-chloro-pyrimidin-4-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone and 13 μL of a 4 molar aqueous hydrochloric acid solution were added to 2.0 mL of 2-propanol and the mixture was refluxed for 4 h. Then the reaction mixture was dissolved in DMF and purified by preparative HPLC-MS. The product-containing fractions were combined and the organic solvent was evaporated down. The residue was made alkaline with a 1N aqueous sodium hydroxide solution, the precipitate formed was suction filtered, washed with water and dried under HV.

reactant | (S)-5-amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 0.40 mmol, 0.10 g | NC=1C=C2C[C@@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
reactant | (6-chloro-pyrimidin-4-yl)-(5-fluoro-2,3-dihydro-indol-1-yl)-methanone | 0.40 mmol, 0.11 g | ClC1=CC(=NC=N1)C(=O)N1CCC2=CC(=CC=C12)F | C13H9ClFN3O
reactant | hydrochloric acid | 4 molar | Cl | ClH
reactant | 2-propanol | 2.0 mL | CC(C)O | C3H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)-5-(6-(5-fluoroindoline-1-carbonyl)pyrimidin-4-ylamino)-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | FC=1C=C2CCN(C2=CC1)C(=O)C1=CC(=NC=N1)NC=1C=C2C[C@@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C28H21FN6O2
